US08017611B2
Bis(triphenylphosphine) palladium (II) chloride (85 mg) and caesium fluoride (1.1 g) were added to a degassed solution of 3-(1,3-benzoxazol-2-yl)-5-bromo-pyridin-2-amine (700 mg) and 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (563 mg) in Methanol (14 ml). The suspension was stirred at 140° C. for 2 hours in a 300 W microwave. The mixture was adsorbed on silica gel and purified by flash chromatography on silica gel eluting with 5 to 10% methanol in dichloromethane. The solvent was evaporated to dryness to afford 3-(1,3-benzoxazol-2-yl)-5-(3,5-dimethyl-1H-pyrazol-4-yl)pyridin-2-amine (120 mg). NMR Spectrum: (DMSOd6) 2.22 (s, 6H), 7.40-7.487 (m, 2H), 7.66 (bs, 2H), 7.76-7.81 (m, 1H), 7.82-7.87 (m, 1H), 8.13 (d, 1H), 8.18 (d, 1H); Mass spectrum: M+H+ 306

reactant | caesium fluoride | 1.1 g | [F-].[Cs+]
reactant | 3-(1,3-benzoxazol-2-yl)-5-bromo-pyridin-2-amine | 700 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)Br)N | C12H8BrN3O
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 563 mg | CC1=NNC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
solvent | Methanol | 14 ml | CO | CH4O
catalyst | Bis(triphenylphosphine) palladium (II) chloride | 85 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(1,3-benzoxazol-2-yl)-5-(3,5-dimethyl-1H-pyrazol-4-yl)pyridin-2-amine | 120 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NNC2C)C)N | C17H15N5O
